US04388317
A solution of ethyl 3-(5-dimethylaminomethyl-2-thienyl)acrylate (30.30 g) in ethanol (175 ml) was hydrogenated (initial press. 344 kPa) over a total of 8.5 hr at a temperature of between 55°-60° C. in the presence of 10% palladium on charcoal catalyst (ca. 10 g) used in two portions. The first portion was added to the reaction mixture initially and the second after 5.5 hrs. The catalyst was filtered off over diatomecous earth and washed with ethanol. The filtrate was evaporated at reduced pressure to give ethyl 3-(5-dimethylaminomethyl-2-thienyl)-propionate (29.91 g) as a colourless oil.

reactant | ethyl 3-(5-dimethylaminomethyl-2-thienyl)acrylate | 30.30 g | CN(C)CC1=CC=C(S1)C=CC(=O)OCC | C12H17NO2S
solvent | ethanol | 175 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | ca. 10 g | [Pd] | Pd
product | ethyl 3-(5-dimethylaminomethyl-2-thienyl)-propionate | 29.91 g | CN(C)CC1=CC=C(S1)CCC(=O)OCC | C12H19NO2S
